US05665719
A solution of 10 ml of methanol containing 296 mg of 1-(1-benzyl-4-piperidyl)indol-2-one was treated with 300 mg of palladium hydroxide catalyst. The resulting suspension was hydrogenated at atmospheric pressure for 60 minutes at 23° C. More catalyst was added (100 mg) and the hydrogenation was continued for 30 minutes more. The reaction mixture was filtered through Celite, concentrated and azeotropically dried with toluene to yield 217 mg of 1-(4-piperidyl)indol-2-one.

reactant | 1-(1-benzyl-4-piperidyl)indol-2-one | C(C1=CC=CC=C1)N1CCC(CC1)N1C(CC2=CC=CC=C12)=O | C20H22N2O
catalyst | palladium hydroxide | 300 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 10 ml, 296 mg | CO | CH4O
product | 1-(4-piperidyl)indol-2-one | 217 mg | N1CCC(CC1)N1C(CC2=CC=CC=C12)=O | C13H16N2O
